US04727081
(±)-N-[2-Methyl-3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,3,4-oxadiazole-2,5-diamine
7 mmol of N-[2-Methyl-3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1,2-hydrazine dicarboxamide in 30 ml of phosphorus oxychloride are stirred for 6 hours at 50°-60° C. When cooled, the reaction mixture is poured out on 300 ml of ice water and neutralized by the addition of concentrated ammonia solution with cooling. The product is extracted with ether and the combined ether extracts are washed, dehydrated and concentrated by evaporation. The solid residue is recrystallised from ether.

reactant | N-[2-Methyl-3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1,2-hydrazine dicarboxamide | 7 mmol | CC(CNC(=O)NNC(=O)N)COC1=CC(=CC=C1)CN1CCCCC1 | C18H29N5O3
reactant | ammonia | N | H3N
solvent | phosphorus oxychloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | (±)-N-[2-Methyl-3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,3,4-oxadiazole-2,5-diamine | CC(CNC=1OC(=NN1)N)COC1=CC(=CC=C1)CN1CCCCC1 | C18H27N5O2
